US05106871
Then, a suspension of 4.10 g of 5% palladium/carbon in 50 ml of ethyl acetate was saturated with hydrogen, and 60 ml of an ethyl acetate solution of 6.61 g of 2'-hydroxy-4,4',6'-tris(methoxymethoxy)chalcone was added to the suspension and hydrogenation was carried out. After the reaction, the reaction liquid was filtered and concentrated under a reduced pressure to obtain 6.10 g (yield=91.8%) of 1-[2-hydroxy-4,6-bis(methoxymethoxy)phenyl]-3-(4-methoxymethoxyphenyl)-1-propanone.

reactant | hydrogen | [H][H] | H2
reactant | 2'-hydroxy-4,4',6'-tris(methoxymethoxy)chalcone | 6.61 g | OC1=C(C(C=CC2=CC=C(C=C2)OCOC)=O)C(=CC(=C1)OCOC)OCOC | C21H24O8
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium/carbon | 4.10 g | [Pd] | Pd
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | 1-[2-hydroxy-4,6-bis(methoxymethoxy)phenyl]-3-(4-methoxymethoxyphenyl)-1-propanone | 6.10 g, yield=91.8% | OC1=C(C(=CC(=C1)OCOC)OCOC)C(CCC1=CC=C(C=C1)OCOC)=O | C21H26O8
